US07384934B2
(S)-10-[4-Methyl-3-(2-phenoxyethyl)piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene dihydrochloride
Combine (S)-10-[3-(2-phenoxyethyl)piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene, formaldehyde (1.1 equiv, 37% aqueous solution), and sodium triacetoxyborohydride (1.5 equiv.) in dichloroethane (10 mL) and stir at room temperature for 2 hours. Dilute the mixture with saturated aqueous sodium bicarbonate and extract three times with dichloromethane. Combine the organic layers, dry over sodium sulfate and concentrate under reduced pressure. Purification by flash chromatography, eluting with a step gradient starting with dichloromethane going to 6% 2N ammonia-methanol in dichloromethane gives the free base of the title compound. Isolate as the dihydrochloride salt by dissolving the free base in ethanol and adding a solution of 5 equivalents of hydrochloric acid in ethanol. Evaporating the solution and drying the salt provides the title compound (0.059 g, 0.129 mmol, 8%) as an orange-solid. Mass spectrum (APCI): m/z=433.2 (M+1 of free base).

reactant | (S)-10-[3-(2-phenoxyethyl)piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene | O(C1=CC=CC=C1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C24H26N4OS
reactant | formaldehyde | 1.1 equiv | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.5 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S)-10-[4-Methyl-3-(2-phenoxyethyl)piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene dihydrochloride | Cl.Cl.CN1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)CCOC2=CC=CC=C2 | InChI=1S/C25H28N4OS.2ClH/c1-18-16-21-24(26-22-10-6-7-11-23(22)27-25(21)31-18)29-14-13-28(2)19(17-29)12-15-30-20-8-4-3-5-9-20;;/h3-11,16,19,27H,12-15,17H2,1-2H3;2*1H/t19-;;/m0../s1
